US08461328B2
A mixture of 6-benzenesulfonyl-1-[4-methyl-1-(pyridine-3-sulfonyl)-piperidin-4-yl]-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene (74.0 mg, 0.14 mmol) in THF/methanol containing aqueous sodium hydroxide (0.53 mmol) was stirred for 64 hr. The solvent was evaporated under vacuum to a small volume, the residue dissolved in DCM, washed with saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated under vacuum and the resulting residue purified by column chromatography on silica gel (gradient: 0 to 5% [2M NH3 in methanol] in DCM) to afford 15.0 mg (27%) of 1-[4-methyl-1-(pyridine-3-sulfonyl)-piperidin-4-yl]-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene. LCMS (Method A, ESI): RT=3.42 min, m+H=398.2; 1H NMR (400 MHz, DMSO): δ 12.45 (s, 1H), 8.99 (s, 1H), 8.86 (m, 2H), 8.13 (ddd, 1H), 7.65 (m, 2H), 6.91 (dd, 1H), 3.49 (m, 2H), 2.90 (m, 2H), 2.75 (m, 2H), 2.31 (m, 2H), 1.75 (s, 3H).

reactant | 6-benzenesulfonyl-1-[4-methyl-1-(pyridine-3-sulfonyl)-piperidin-4-yl]-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene | 0.14 mmol, 74.0 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1(CCN(CC1)S(=O)(=O)C=1C=NC=CC1)C | C24H23N7O4S2
reactant | THF methanol | 0.53 mmol | C1CCOC1.CO
product | 1-[4-methyl-1-(pyridine-3-sulfonyl)-piperidin-4-yl]-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene | 15.0 mg, 27% | CC1(CCN(CC1)S(=O)(=O)C=1C=NC=CC1)N1N=NC2=CN=C3NC=CC3=C12 | C18H19N7O2S
